US04985458
An atmospheric pressure hydrogenation equipment was charged with 17.8 g (0.10 M) of 1,2-dimethoxy-4-propenylbenzene, 0.9 g of palladium charcoal and 350 ml of methanol and introduced with hydrogen. The reaction was continued until the absorption of hydrogen was terminated. Palladium charcoal was filtered off from the reaction mixture. The filtrate was distilled off methanol and vacuum distilled to obtain 17.5 g (0.097 M) of 4-propylveratrole as colorless transparent liquid having a boiling point of 106°-108° C./4 mmHg.

reactant | 1,2-dimethoxy-4-propenylbenzene | 0.10 M, 17.8 g | COC1=C(C=C(C=C1)C=CC)OC | C11H14O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium charcoal | 0.9 g | [Pd] | Pd
solvent | methanol | 350 ml | CO | CH4O
product | 4-propylveratrole | 0.097 M, 17.5 g | C(CC)C=1C=C(C(=CC1)OC)OC | C11H16O2
